US05698692
5-t-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-carboxylic acid
To the solution of 4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-carboxylic acid (7.6 g) in DMF (75 ml) was added di-t-butyl dicarbonate (9.6 ml), and triethylamine (5.8 ml) was titrated to the mixture. After stirring at room temperature for 3 hours and the addition of water, the reaction mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with water, dried over anhydrous magnesium sulfate, the solvent was evaporated. After n-hexan and a small amount of ether were added to the residue, crystals deposited were collected by filtration to give 9.36 g of the title compound (yield, 80%).

reactant | 4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-carboxylic acid | 7.6 g | S1C(=CC=2CNCCC21)C(=O)O | C8H9NO2S
reactant | di-t-butyl dicarbonate | 9.6 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 5.8 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-t-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-carboxylic acid | 9.36 g, 80% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)C(=O)O | C13H17NO4S
